US07776869B2
A 200 mL RBF was charged with (R)-3-(tert-butyldimethylsilyloxy)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidine (4.10 g, 10.1 mmol) and palladium, 10 wt. % on activated carbon wet (0.179 ml, 2.03 mmol) under nitrogen. MeOH was added via syringe, and the atmosphere replaced with hydrogen via one or more balloons. The reaction was stirred rapidly for 60 h. The reaction was flushed with nitrogen, filtered through celite rinsing with 100 mL MeOH, and concentrated in vacuo. The crude material was treated with hexanes and passed through a Redi-Sep® pre-packed silica gel column (80 g) eluting with 0-40% EtOAc/hexane. The product-containing fractions were concentrated to afford (R)-2-(3-(tert-butyldimethylsilyloxy)piperidin-1-yl)-5-(trifluoromethyl)benzenamine as a brown oil. MS m/z=375 [M+H]+. Calc'd for C18H29F3N2OSi: 374.

reactant | (R)-3-(tert-butyldimethylsilyloxy)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidine | 10.1 mmol, 4.10 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(CCC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C18H27F3N2O3Si
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | (R)-2-(3-(tert-butyldimethylsilyloxy)piperidin-1-yl)-5-(trifluoromethyl)benzenamine | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(CCC1)C1=C(C=C(C=C1)C(F)(F)F)N | C18H29F3N2OSi
